US08314147B2
Intermediate 35: Ethyl (4-{[(6-chloro-2-fluoro-3-hydroxyphenyl)carbonyl]amino}phenyl)acetate
Boron tribromide (393 μl, 4.16 mmol) was added dropwise to a solution of ethyl[4-({[6-chloro-2-fluoro-3-(methyloxy)phenyl]carbonyl}amino)phenyl]acetate (506 mg, 1.39 mmol) in dichloromethane (30 ml) at −78° C. under argon and the reaction was stirred overnight whilst slowly warming to 0° C. The reaction was quenched by the careful addition of water, stirred for 1 hour, further diluted with ethyl acetate, filtered, phases separated, the organic layer dried (Na2SO4) and solvent evaporated and the residue purified by flash chromatography (Biotage SP4, 25+M silica column, 0→80% ethyl acetate/petrol, clean fractions collected) to afford the title compound as a colourless foam (157 mg, 32%).

reactant | Boron tribromide | 4.16 mmol, 393 μl | B(Br)(Br)Br | BBr3
reactant | ethyl[4-({[6-chloro-2-fluoro-3-(methyloxy)phenyl]carbonyl}amino)phenyl]acetate | 1.39 mmol, 506 mg | C(C)OC(CC1=CC=C(C=C1)NC(=O)C1=C(C(=CC=C1Cl)OC)F)=O | C18H17ClFNO4
solvent | dichloromethane | 30 ml | ClCCl | CH2Cl2
product | Ethyl (4-{[(6-chloro-2-fluoro-3-hydroxyphenyl)carbonyl]amino}phenyl)acetate | 157 mg, 32% | ClC1=CC=C(C(=C1C(=O)NC1=CC=C(C=C1)CC(=O)OCC)F)O | C17H15ClFNO4
